data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(OC)CC1F.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(OC)CC1F.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(OC)CC1F", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(OC)CC2F.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(OC)CC2F", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(C(=O)CC41c4ccccc4N(C)C31)C(OC)CC2F"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1c(C)cc(NN=CCc2ccccc2)cc1F.Cl[Zn]Cl", "products": "COc1c(C)cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1F"}, {"reactants": "COc1c(C)cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1F", "products": "COc1c(C)cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1F.[H+]"}, {"reactants": "COc1c(C)cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1F", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(C)cccc2F)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(C)cccc2F)C(=N)C=C1", "products": "COc1c(C)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1F"}, {"reactants": "COc1c(C)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1F", "products": "COc1c(C)cc2c(c1F)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1c(C)cc2c(c1F)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1c(C)cc2c(c1F)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1c(C)cc2c(c1F)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1c(C)cc2c(c1F)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1c(C)cc2c(c1F)C(c1ccccc1)C=[NH+]2", "products": "COc1c(C)cc2[nH]cc(-c3ccccc3)c2c1F.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1c(F)ccc(Br)c1N(C)C(=O)C1=CCCC1.[Pd]", "products": "COc1c(F)cc[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1"}, {"reactants": "COc1c(F)cc[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1", "products": "COc1c(F)ccc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1c(F)ccc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1c(F)ccc2c1C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(OC)C(OC)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(OC)C1(OC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(OC)C1(OC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(OC)C1(OC)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(OC)C1(OC)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(OC)C1(OC)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "O=C1C(O)(c2ccccc2)C3(C)CCC(C1)C3(C)C.[H+]", "products": "O=C1C([OH2+])(c2ccccc2)C3(C)CCC(C1)C3(C)C"}, {"reactants": "O=C1C([OH2+])(c2ccccc2)C3(C)CCC(C1)C3(C)C", "products": "O=C1[C+](c2ccccc2)C3(C)CCC(C1)C3(C)C.O"}, {"reactants": "O=C1[C+](c2ccccc2)C3(C)CCC(C1)C3(C)C", "products": "O=C1C2(c3ccccc3)CCC(C1)C(C)(C)[C+]2C"}, {"reactants": "O=C1C2(c3ccccc3)CCC(C1)C(C)(C)[C+]2C", "products": "CC1=C(c2ccccc2)CCC(C#[O+])C(C)(C)1"}, {"reactants": "CC1=C(c2ccccc2)CCC(C#[O+])C(C)(C)1.O", "products": "CC1=C(c2ccccc2)CCC(C(=O)[OH2+])C(C)(C)1"}, {"reactants": "CC1=C(c2ccccc2)CCC(C(=O)[OH2+])C(C)(C)1", "products": "CC1(C)C(C(=O)O)CCC(c2ccccc2)[C+]1C"}, {"reactants": "CC1(C)C(C(=O)O)CCC(c2ccccc2)[C+]1C", "products": "O=C1[OH+]C2(C(CCC1C2(C)C)c3ccccc3)C"}, {"reactants": "O=C1[OH+]C2(C(CCC1C2(C)C)c3ccccc3)C", "products": "O=C1OC2(C(CCC1C2(C)C)c3ccccc3)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CCOc1cccc(Br)c1N(C)C(=O)C1=CCCC1.[Pd]", "products": "CCOc1ccc[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1"}, {"reactants": "CCOc1ccc[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1", "products": "CCOc1cccc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "CCOc1cccc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "CCOc1cccc2c1C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1cc(Cl)ccc1C(=O)C1C2CCC1C2", "products": "COc1cc(Cl)ccc1[C]([O])C1C2CCC1C2"}, {"reactants": "COc1cc(Cl)ccc1[C]([O])C1C2CCC1C2", "products": "COc1cc(Cl)ccc1C([O])=CC1C[CH]CC1"}, {"reactants": "COc1cc(Cl)ccc1C([O])=CC1C[CH]CC1", "products": "COc1cc(Cl)ccc1C(O)=CC1C=CCC1"}, {"reactants": "COc1cc(Cl)ccc1C(O)=CC1C=CCC1", "products": "COc1cc(Cl)ccc1C(=O)CC1C=CCC1"}]}
